US06087380
1-Methyl-2-[N-[4-(N-n-octyloxycarbonylamidino)phenyl]-aminomethyl)-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-hydroxycarbonylethyl)-amide
0.7 g (1.1 mMol) of 1-methyl-2-[N-[4-(N-n-octyloxycarbonylamidino)-phenyl]-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-methoxycarbonylethyl)-amide was stirred in a mixture of 0.12 g (3.0 mMol) of sodium hydroxide, 5 ml of water and 10 ml of methanol for one hour at room temperature. Then the mixture was diluted with 20 ml of water and adjusted to pH 6 with glacial acetic acid. Then about 5 ml of diethylether were added and the mixture was vigourously stirred for one hour. The product thus precipitated was suction filtered, washed with a little water, then with diethylether and dried. Yield: 80% of theory, C34H41N7O5 (627.8) ##EQU73##

reactant | 1-methyl-2-[N-[4-(N-n-octyloxycarbonylamidino)-phenyl]-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-methoxycarbonylethyl)-amide | 1.1 mMol, 0.7 g | N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C(NC(=O)OCCCCCCCC)=N)C)C=C1)CCC(=O)OC | C35H43N7O5
reactant | sodium hydroxide | 3.0 mMol, 0.12 g | [OH-].[Na+]
reactant | methanol | 10 ml | CO | CH4O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 20 ml | O | H2O
solvent | water | 5 ml | O | H2O
solvent | diethylether | about 5 ml | C(C)OCC | C4H10O
product | 1-Methyl-2-[N-[4-(N-n-octyloxycarbonylamidino)phenyl]-aminomethyl)-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-hydroxycarbonylethyl)-amide | Yield: 80% | N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C(NC(=O)OCCCCCCCC)=N)C)C=C1)CCC(=O)O | C34H41N7O5
